US08026366B2
To a stirred solution (pale orange) of 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol (0.24 g, 1.0 mmol) was dissolved in anhydrous DMF (5 mL) was added cesium carbonate (3.0 eq., 1.0 g, 3.0 mmol) and 1.1 eq. of an 80% solution of propargyl bromide in toluene (0.16 g). The mixture was heated to 65° C. and maintained overnight. The reaction was quenched by slowly adding the reaction mixture to 10 volumes of water (50 mL). The resulting solid was collected by vacuum filtration, rinsed with acetonitrile and air dried, to provide 0.22 g of 2-ethyl-7-[(prop-2-ynyl)oxy]thiazolo[4,5-c]quinolin-4-amine as a pale-peach colored crystalline solid. MS (ACPI) m/z=284 (M+H)+.

reactant | 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol | 1.0 mmol, 0.24 g | NC1=NC=2C=C(C=CC2C2=C1N=C(S2)CC)O | C12H11N3OS
reactant | cesium carbonate | 3.0 mmol, 1.0 g, 3.0 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | propargyl bromide | C(C#C)Br | C3H3Br
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | toluene | 0.16 g | C1(=CC=CC=C1)C | C7H8
product | 2-ethyl-7-[(prop-2-ynyl)oxy]thiazolo[4,5-c]quinolin-4-amine | 0.22 g | C(C)C=1SC2=C(C(=NC=3C=C(C=CC23)OCC#C)N)N1 | C15H13N3OS
